US06881733B1
1-benzyl-3,3-dimethyl-4-(4,6-difluorobenzofur-7-yl)piperidine
Beginning with 0.84 gm (2.26 mMol) 1-benzyl-3,3-dimethyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine, 0.84 gm (81%) 1-benzyl-3,3-dimethyl-4-(methyl oxoacetoxy)-4-(4,6-difluorobenzofur-7-yl)piperidine were prepared essentially as described in EXAMPLE 16. This material (0.57 gm, 1.25 mMol) was treated with tri(n-butyl)tin hydride essentially as described in EXAMPLE 16 to prepare 0.35 gm (79%) of the desired compound.

reactant | 1-benzyl-3,3-dimethyl-4-hydroxy-4-(4,6-difluorobenzofur-7-yl)piperidine | 2.26 mMol, 0.84 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=C(C=2C=COC21)F)F)O)(C)C | C22H23F2NO2
reactant | 1-benzyl-3,3-dimethyl-4-(methyl oxoacetoxy)-4-(4,6-difluorobenzofur-7-yl)piperidine | 0.84 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=C(C=2C=COC21)F)F)OC(C(=O)C)=O)(C)C | C25H25F2NO4
reactant | tri(n-butyl)tin hydride | C(CCC)[SnH](CCCC)CCCC
product | 1-benzyl-3,3-dimethyl-4-(4,6-difluorobenzofur-7-yl)piperidine | 0.35 gm, 79% | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=C(C=2C=COC21)F)F)(C)C | C22H23F2NO
